US04782169
1,4-Dimethyl-7-oxabicyclo[2.2.1]hept-5-en-2-one
To a solution of 12 g of 2-cyano-2-acetoxy-1,4-dimethyl-7-oxabicyclo[2.2.1]hept-5-ene in 100 ml of methanol was added 0.028 mole of sodium methoxide. The mixture was stirred at room temperature for 3 hours, then 30 ml of formalin was added and the mixture was stirred an additional hour at room temperature. The reaction mixture was washed with 100 ml of water, then with 100 ml of saturated sodium chloride solution and extracted thrice with 100 ml of methylene chloride, dried (Na2SO4), concentrated and flash chromatographed using 1:1 hexane:methylene chloride as eluent to give 6 g of the desired product as a yellow oil.

reactant | 2-cyano-2-acetoxy-1,4-dimethyl-7-oxabicyclo[2.2.1]hept-5-ene | 12 g | C(#N)C1(C2(C=CC(C1)(O2)C)C)OC(C)=O | C11H13NO3
reactant | sodium methoxide | 0.028 mole | C[O-].[Na+]
reactant | formalin | 30 ml | C=O | CH2O
solvent | methanol | 100 ml | CO | CH4O
product | 1,4-Dimethyl-7-oxabicyclo[2.2.1]hept-5-en-2-one | 6 g | CC12C(CC(C=C1)(O2)C)=O | C8H10O2
